US05158970
tert-Butoxycarbonyl-L-prolinal is acetalized with methyl orthoformate in a 0.4 M solution of cerium chloride in ethanol to give tert-butoxycarbonyl-L-prolinal dimethyl acetal as a colorless syrup.

reactant | tert-Butoxycarbonyl-L-prolinal | C(C)(C)(C)OC(=O)N1[C@H](C=O)CCC1 | C10H17NO3
reactant | methyl orthoformate | C(OC)([O-])[O-]
reactant | cerium chloride | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | ethanol | C(C)O | C2H6O
product | tert-butoxycarbonyl-L-prolinal dimethyl acetal | COC([C@H]1N(CCC1)C(=O)OC(C)(C)C)OC | C12H23NO4
